US07368578B2
N-Chlorosuccinimide (4.5 g) was added to a solution (100 ml) of tert-butyl 4-(4,5-dimethyl-1,3-thiazol-2-yl)piperazine-1-carboxylate (10 g) in acetonitrile at 0° C., and the mixture was stirred at 0° C. for 30 min. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate-hexane (0:1-1:4-1:2, v/v) to give tert-butyl 4-(4-chloromethyl-5-methyl-1,3-thiazol-2-yl)piperazine-1-carboxylate as colorless crystals (6.2 g, yield 55%).

reactant | N-Chlorosuccinimide | 4.5 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | tert-butyl 4-(4,5-dimethyl-1,3-thiazol-2-yl)piperazine-1-carboxylate | 100 ml, 10 g | CC=1N=C(SC1C)N1CCN(CC1)C(=O)OC(C)(C)C | C14H23N3O2S
reactant | water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
product | tert-butyl 4-(4-chloromethyl-5-methyl-1,3-thiazol-2-yl)piperazine-1-carboxylate | 6.2 g, yield 55% | ClCC=1N=C(SC1C)N1CCN(CC1)C(=O)OC(C)(C)C | C14H22ClN3O2S
